US04440933
A. N-[3-(3-Pyrrolidinomethylphenoxy)propyl]ethanediimidamide trihydrochloride
A suspension of 3-amino-4-[3-(3-pyrrolidinomethylphenoxy)propylamino]-1,2,5-thiadiazole 1-oxide (13.4 g; 38.3 mmoles) [prepared according to the procedure of U.S. Pat. No. 4,374,248] in 350 ml of methanol was treated with 25.5 mL of concentrated HCl. The resultant solution was stirred for 3 hours at ambiet temperature. Concentration of the solution followed by azeotropic removal of water with absolute ethanol gave the product. The crystalline residue was triturated with 150 mL of absolute ethanol, filtered and dried to give 10.8 g of the title compound, m.p. 195°-203° C. (dec.).

reactant | 3-amino-4-[3-(3-pyrrolidinomethylphenoxy)propylamino]-1,2,5-thiadiazole 1-oxide | 38.3 mmoles, 13.4 g | NC1=NS(N=C1NCCCOC1=CC(=CC=C1)CN1CCCC1)=O | C16H23N5O2S
reactant | HCl | 25.5 mL | Cl | ClH
solvent | methanol | 350 ml | CO | CH4O
product | N-[3-(3-Pyrrolidinomethylphenoxy)propyl]ethanediimidamide trihydrochloride | 10.8 g | Cl.Cl.Cl.N1(CCCC1)CC=1C=C(OCCCNC(C(N)=N)=N)C=CC1 | InChI=1S/C16H25N5O.3ClH/c17-15(18)16(19)20-7-4-10-22-14-6-3-5-13(11-14)12-21-8-1-2-9-21;;;/h3,5-6,11H,1-2,4,7-10,12H2,(H3,17,18)(H2,19,20);3*1H
